US06248306B1
a) 2-Nitro-5-hydroxy-benzoic acid benzyl ester
40 g (218.4 mmol) of 2-hydroxy-5-nitro-benzoic acid, 236.17 g (2.184 mol) of benzyl alcohol and 1 g of p-toluenesulfonic acid in 1000 ml of toluene are heated for 2 days in a water separator. It is evaporated to dryness and the residue is chromatographed on silica gel (mobile solvent: methylene chloride/hexane/acetone=15:5:1).

reactant | 2-hydroxy-5-nitro-benzoic acid | 218.4 mmol, 40 g | OC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H5NO5
reactant | benzyl alcohol | 2.184 mol, 236.17 g | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Nitro-5-hydroxy-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)O)[N+](=O)[O-])=O | C14H11NO5
